Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dysphagia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ Year old Male physician with history of ischemic stroke and 
aspiration pneumonia presents to the ED with complaints of 1 day 
of vomiting. He report that on the evening prior to admission he 
vomited right after dinner without preceeding nausea. Overnight 
he states he had some nausea, but was able to take his 
medications with applesauce as usual without vomiting. In the 
morning he noted dysphagia and the inability to swallow his 
secretions.
  
In the ED, initial vitals were T 98.5, HR 60, BP 142/89, satting 
98% RA. CXR showed low lung volumes but no acute process given 
poor study. CT revealed no acute process. The ED was concerned 
about food impaction and consulted GI, who evaluated the patient 
and noted that he does not initiate swallow and then pushes food 
back out likely due to discoordination of swallow reflex. Vitals 
prior to transfer: Temp: 98.8 °F (37.1 °C), Pulse: 60, RR: 17, 
BP: 137/84  

He continues to have difficulty swallowing secretions and 
hadbeen spitting them into a towel but they are slightly more 
controlled by the time I saw him. Due to this he has a dry 
mouth. The dysphagia is intermittent but are fairly often. He 
denies neck or throat pain and doesn't feel any obstruction. His 
wife notes that although he has had swallowing problems in the 
past resulting in aspiration, he has never complained of 
dysphagia.

His initial stroke in ___ was due to a basilar artery 
dissection with hemorrhage which left him with balance issues, 
particularly in turning his head. These were overshadowed by the 
large stroke which left him hemiplegic. He notes that while in 
the ED with neurology, he developed retching when they did a 
pupil exam with a flashlight and asked him to look up.
 
Past Medical History:
1. Paroxysmal atrial fibrillation, reportedly scheduled for 
ablation in ___. Vertebral artery dissection complicated by hemorrhage in 
setting of elevated INR, on coumadin, lovenox, ASA
3. Hypertension 
4. CVA ___ (embolic) - right hemiplegia and some aphasia
5  Multiple Aspiration Events
 

 
Social History:
___
Family History:
No known family history of stroke or neurologic disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VSS: 98.2, 152/90, 68, 20, 95%
GEN: NAD, Obese
Pain: ___
HEENT: EOMI, MMM, - OP Lesions
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CC, 1+ edema R>L
NEURO: CAOx3, Right hemiplegic, Tongue deviates to right, pupils 
pinpoint (baseline)

DISCHARGE PHYSICAL EXAM
VS - 98 132/80 52 16 93% on RA
GENERAL - Gen: Obese older man 
HEENT - NC/AT, PERRL, EOMI. sclerae anicteric, dry mucous 
membranes, tongue deviates to R. 
NECK - supple, No JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh. 
HEART -  RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, obese, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, 2+ edema in ___ 
___ - A&OX3, CN's grossly intact except tongue w/ right 
deviation. No facial droop. Pt has R-sided near-total 
hemiplegia, which is baseline.  

 
Pertinent Results:
Admission Labs

___ 08:35AM BLOOD WBC-7.8 RBC-4.97 Hgb-15.2 Hct-46.8 MCV-94 
MCH-30.6 MCHC-32.5 RDW-14.2 Plt ___
___ 03:25PM BLOOD WBC-7.7 RBC-5.15 Hgb-16.1 Hct-48.7 MCV-95 
MCH-31.3 MCHC-33.0 RDW-14.4 Plt ___
___ 08:35AM BLOOD ___ PTT-36.0 ___
___ 08:35AM BLOOD Glucose-83 UreaN-19 Creat-0.8 Na-145 
K-3.6 Cl-104 HCO3-31 AnGap-14
___ 05:00PM BLOOD Glucose-103* UreaN-20 Creat-0.9 Na-145 
K-3.6 Cl-103 HCO3-31 AnGap-15
___ 08:35AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.1

Studies
CHEST (PA & LAT) Study Date of ___ 3:43 ___ 
IMPRESSION:  No definite acute disease on limited study with 
very low lung volumes. 
 
CT NECK W/CONTRAST (EG:PAROTIDS) Study Date of ___ 5:13 ___ 
Wet Read: ___ SAT ___ 10:56 ___ 
No esophageal dilation or food impaction. Ectasia of the main 
pulmonay 
artery. 

CT CHEST W/CONTRAST Study Date of ___ 5:13 ___ 
IMPRESSION: 
1.  No evidence of esophageal dilation or food impaction. 
2.  Fat containing lesion along the left lateral thoracic wall, 
consistent with an interpleural lipoma. 
3.  Marked eventration of the right hemidiaphragm. 
4.  Ectasia of the main pulmonary artery, measuring up to 3.7 
cm. 
5.  Coronary artery calcifications. 
6.  Gallbladder sludge versus tiny stones.  No associated 
gallbladder wall thickening to suggest acute cholecystitis. 
 
CT HEAD W/O CONTRAST Study Date of ___ 12:22 AM 
IMPRESSION:  Sequela of prior known infarct, without evidence of 
acute 
intracranial abnormality.  If there is further concern for 
infarct, please note that MRI (if not CI) is more sensitive for 
this.  
NOTE: A curvilinear slightly dense focus in the left pareital 
lobe 
posteriorly-? artifact/developmental venous anomaly- attention 
on f/u. 

MRI Brain:
1.  Sequela of prior ischemic hemorrhagic changes in the left 
basal ganglia, 
insular region and left temporal lobe and also in the cerebellar 
vermis 
posterior to the cerebellar nodule. 
2.  Gliosis and Wallerian degeneration is noted throughout the 
left 
corticospinal tract, with asymmetry of the left cerebellar 
peduncle and 
extending at the pons and medulla oblongata as described in 
detail above. 
3.  There is no evidence of acute hemorrhagic or ischemic 
changes.

. No evidence of pulmonary embolism or any other acute 
cardiopulmonary 
Preliminary Reportprocess. 
Preliminary Report2. Stable 5mm left apical nodule. 
Preliminary Report3. 4.2 x 2.1 cm left upper lobe subpleural 
mass consistent with intrapleural 
Preliminary Reportlipoma. 

Pertinent Labs
Hematology 
GENERAL URINE INFORMATION Type Color ___ 
___ 11:21AM      Yellow Clear 1.010 Import Result 

 
DIPSTICK URINALYSIS Blood Nitrite Protein Glucose Ketone Bilirub 
Urobiln pH Leuks 
___ 11:21AM    SM  NEG NEG NEG NEG NEG NEG 5.5 TR Import 
Result 

 
MICROSCOPIC URINE EXAMINATION ___ WBC Bacteri Yeast Epi TransE 
RenalEp 
___ 11:21AM    8* 10* NONE NONE 0     Import Result 

 
URINE CASTS CastHy 
___ 11:21AM    5* Import Result 

 
OTHER URINE FINDINGS Mucous 
___ 11:21AM    MOD Import Result 

 
 

DISCHARGE LABS 

___ 09:04AM BLOOD WBC-7.2 RBC-4.71 Hgb-14.6 Hct-44.1 MCV-94 
MCH-31.0 MCHC-33.2 RDW-14.1 Plt ___
___ 09:04AM BLOOD Glucose-107* UreaN-14 Creat-0.9 Na-143 
K-3.4 Cl-104 HCO3-28 AnGap-14
___ 09:04AM BLOOD Phos-2.7 Mg-2.0
___ 11:21AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:21AM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 11:21AM URINE RBC-8* WBC-10* Bacteri-NONE Yeast-NONE 
Epi-0
___ 11:21AM URINE Mucous-MOD

 

 
Brief Hospital Course:
___ PMH ischemic stroke and aspiration PNA admitted to the ___ 
with dysphagia and inability to tolerate oral intake. He was 
evaluated by neurlogy and gastroenterollogy who agreed that his 
presentation is related to rectrudescence of his prior stroke. 
With time, symptoms improved and he was discharged to skilled 
nursing.

ACTIVE ISSUES
============
#Dysphagia - Pt initially demonstrated dysphagia above that of 
his baseline on presentation.  Per his family, there is a 
certain level of dypsphagia at baseline but it progressed to the 
point of inability to swallow secretions.  Etiology remains 
somewhat unclear.  GI felt that it was primarily a 
neurologic/swallowing dysfunction issue and deferred EGD.  MRI 
of the brain showed no evidence of acute pathology.  It was felt 
that these sx were likely recrudescence of a prior stroke ___ to 
hypovolemia vs infection.  However, CXR was negative.  UA 
demonstrated pyuria, and he was treated with cefpodoxime for a 
total of a 14 day course.  The dysphagia had returned to 
baseline by HD 3.  He was scheduled for outpatient GI ___ 
on discharge.

#Jaw Pain - Pt developed excruciating jaw pain on HD 4.  EKG was 
ordered to rule out ACS.  Pt complained of tooth pain but no 
lesion or palpable pain on exam.  Palpable pain was present at 
the superior head of the R SCM.  No nodes or masses appreciated. 
 Re-read of the MRI/CT demonstrated no lesion.  IV morphine and 
viscous lidocaine provided symptomatic relief, and symptoms 
resolved prior to discharge.

#Abd Pain - No evidence of pathology by assessment of LFTs and 
lipase.  Abdominal Film demonstrated constipation.  Pt was 
treated with enema and had bowel movement on last day of 
admission

#Chest Pain - Pt experienced CP and was ruled out for MI with 
trops.  He also received a CTPE which was negative for PE.  The 
chest pain was atypical in nature and resolved with nitro x 2 
and morphine, with no further episodes during his admission.

#UTI - Urine was concerning for infection and cipro was started. 
He was then transitioned to ceftriaxone.  He received 2 days of 
ceftriaxone and will get cefpodoxime for a total of 14 days for 
a complicated UTI. 

CHRONIC ISSUES
# Prior CVA with residual effects - pt continued on coumadin and 
asa on admission.  Was subtherapeutic on coumadin on admission 
but therapeutic on d/c without change in dose.

# Hypertension - continued on losartan while in house

# Chronic ___ edema - unchanged during admission.  Continued on 
lasix while in house.

# Hypothyroidism - continued on levothyroxine while in house.

TRANSITIONAL
# A 5mm pulmonary nodule was seen on CT chest, this will need 6 
month follow up on ___
# Pt will need to ___ with PCP. 
# GI has stated that there is no need for outpatient EGD unless 
sx recur
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Family/Caregiver.
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Furosemide 20 mg PO DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Tab-A-Vite *NF* (multivitamin)    Oral daily 
6. Omeprazole 20 mg PO DAILY 
7. Senna 2 TAB PO HS 
8. Simvastatin 10 mg PO DAILY 
9. Acetaminophen 325 mg PO Q4H:PRN pain 
10. ALPRAZolam 3 mg PO QHS 
11. Sertraline 50 mg PO DAILY 
12. traZODONE 75 mg PO HS 
13. Losartan Potassium 100 mg PO DAILY 
14. Warfarin 4.5 mg PO DAILY16 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q4H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Furosemide 20 mg PO DAILY 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Losartan Potassium 100 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Senna 2 TAB PO HS 
9. Sertraline 50 mg PO DAILY 
10. Simvastatin 10 mg PO DAILY 
11. Warfarin 4 mg PO DAILY16 
Hold dose on ___.  Restart on ___.  Check INR daily 
RX *Coumadin 2 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*2
12. Cefpodoxime Proxetil 200 mg PO Q12H Duration: 10 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0
13. Quetiapine Fumarate 12.5 mg PO QHS insomnia 
RX *quetiapine 25 mg 0.5 (One half) tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*2
14. Tab-A-Vite *NF* (multivitamin) 1 Tablet ORAL DAILY 
15. Morphine Sulfate ___ 15 mg PO Q6H:PRN pain Duration: 20 Doses 

Hold for hypotension, sedation, or respiratory rate < 10 
RX *morphine 15 mg 1 tablet(s) by mouth every 6 hours Disp #*20 
Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
___ Diagnosis:
Primary:
Dysphagia

Secondary:
Jaw pain
Chest Pain
Hypothyroidism
Chronic ___ Edema

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you during your recent admission to 
___.  You were admitted because you had difficulty swallowing. 
 There was initial concern for a new stroke.  However, imaging 
ruled this out.  We believe this represented an exacerbation of 
your old stroke symptoms that resolved over time.  There is 
thought that this was brought on by a urinary tract infection.  
We have treated you with IV fluids and abx.  Your symptoms of 
difficulty swallowing have improved.  

Additionally, you had intermittent abdominal pain, leg pain, and 
chest pain.  It was determined that you did not have a heart 
attack or blood clot in the lung.  No abnormalities were seen 
with your liver and pancreas enzymes.  Abdominal imaging showed 
constipation which we treated you with by giving you an enema.

You should ___ with your PCP on discharge.  

Your alprazolam was discontinued.
We are providing you with quetiapine to help you sleep.
We are also sending you home with 10 days of cefpodoxime, an 
antibiotic, to treat your urinary infection.

 
Followup Instructions:
___